US06297239B1
Step B: Preparation of 4-Bromomethyl-2-hydroxy-benzonitrile
2-hydroxy-4-hydroxymethylbenzonitrile (0.20 g, 1.34 mmol) was dissolved in DMF (5 mL) and CH2Cl2(5 mL) and then treated with triphenylphosphine (0.53 g, 2.01 mmol) and carbon tetrabromide (0.67 g, 2.01 mmol) at ambient temperature with stirring. After 2 h, the reaction mixture was partitioned between EtOAc (100 mL) and H2O (100 mL), the organic layer were separated, dried (MgSO4), and filtered to give the title compound after silica gel chromatography (15% EtOAc/hexane to 25% EtOAc/hexane).

reactant | 2-hydroxy-4-hydroxymethylbenzonitrile | 1.34 mmol, 0.20 g | OC1=C(C#N)C=CC(=C1)CO | C8H7NO2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | triphenylphosphine | 2.01 mmol, 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.01 mmol, 0.67 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-Bromomethyl-2-hydroxy-benzonitrile | BrCC1=CC(=C(C#N)C=C1)O | C8H6BrNO
